US05665718
A solution of 5.8 g (19 mmol) of N-phthaloylglycine in 30 ml of dimethylformamide was treated at room temperature with 3.2 g (19.75 mmol) of 1,1'-carbonyldiimidazole and the mixture was subsequently heated to 50°. After 30 minutes the mixture was cooled to room temperature, 5.6 g (19.63 mmol) of (S)-8-oxo-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno-[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide were added thereto and the mixture was stirred at room temperature for 12 hours. The suspension obtained was filtered and the colour-less powder obtained was washed with ethanol and diethyl ether. There were obtained 8.7 g (96%) of (S)-N'-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylacetyl)-8-oxo-11,11a-dihydro-8H,10H-azeto [1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide of m.p. >260°.

reactant | N-phthaloylglycine | 19 mmol, 5.8 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | 1,1'-carbonyldiimidazole | 19.75 mmol, 3.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-8-oxo-11,11 a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno-[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide | 19.63 mmol, 5.6 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)NN)C=CS2 | C12H11N5O2S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-N'-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylacetyl)-8-oxo-11,11a-dihydro-8H,10H-azeto [1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide | 8.7 g, 96% | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)NNC(=O)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C22H16N6O5S
